US07576215B2
3-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)PHENYL]PROPANOIC ACID
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and [4(2-ethoxycarbonylethyl)phenyl]boronic acid using the procedure of example 110 followed by hydrolysis with NaOH; MS (ESI) m/z 527([M+H]+).

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | [4(2-ethoxycarbonylethyl)phenyl]boronic acid | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
reactant | NaOH | [OH-].[Na+]
product | 3-[4-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)PHENYL]PROPANOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC1=CC=C(C=C1)CCC(=O)O)C(F)(F)F | C32H25F3N2O2
